US06710055B2
a. 1-Methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-[2-(methanesulfonylaminocarbonyl)ethyl]amide
2.0 g (4.5 mmol) of 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-hydroxycarbonylethyl)amide and 0.73 g (4.7 mmol) of carbonylduimidazole were dissolved in 80 mL of tetrahydrofuran and 5 mL of dimethylformamide and stirred for 30 minutes at ambient temperature and for 2 hours at 90° C. In parallel, 0.55 g (5.8 mmol) of methanesulfonic acid amide and 0.28 g (5.8 mmol) of sodium hydride were suspended in 15 mL of dimethylformamide and stirred for 2 hours at ambient temperature. Then this suspension was added at ambient temperature to the tetrahydrofuran solution. After 12 hours at ambient temperature, 50 mL of water were added and the pH value was adjusted to 6.8. The solution was extracted 4× with methylene chloride, the combined organic phases were dried over sodium sulfate and evaporated down. The crude product was chromatographed on silica gel (methylene chloride/ethanol (40:1)). The desired fractions were combined and evaporated down. Yield: 1.05 g (44% of theory), C26H25N7O4S (531.6); Rf value: 0.72 (silica gel; dichloromethane/methanol=9:1).

reactant | 1-methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-hydroxycarbonylethyl)amide | 4.5 mmol, 2.0 g | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)O | C25H22N6O3
reactant | methanesulfonic acid amide | 5.8 mmol, 0.55 g | CS(=O)(=O)N | CH5NO2S
reactant | sodium hydride | 5.8 mmol, 0.28 g | [H-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-Methyl-2-[N-(4-cyanophenyl)aminomethyl]benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-[2-(methanesulfonylaminocarbonyl)ethyl]amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)NS(=O)(=O)C | C26H25N7O4S
